US07968571B2
To a solution of methyl 2-chloro-6-[methyl(methylsulfonyl)amino]isonicotinate (2 g, 7.18 mmol) in 1:1 THF:MeOH (60 mL) added a NaOH (9.3 mL, 9.3 mmol, 1N). The reaction mixture was stirred at rt for 0.5 h, acidified to pH 3-4 with 1N HCl, extracted with dichloromethane (×2), dried over sodium sulfate and concentrated in vacuo to provide 2-chloro-6-[methyl(methylsulfonyl)amino]isonicotinic acid as a white solid. 1H NMR (400 MHz, CD3OD) δ 7.88 (s, 1H), 7.63 (s, 1H), 3.39 (s, 3H), 3.13 (s, 3H).

reactant | methyl 2-chloro-6-[methyl(methylsulfonyl)amino]isonicotinate | 7.18 mmol, 2 g | ClC=1C=C(C(=O)OC)C=C(N1)N(S(=O)(=O)C)C | C9H11ClN2O4S
reactant | THF | C1CCOC1 | C4H8O
reactant | NaOH | 9.3 mmol, 1N, 9.3 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 60 mL | CO | CH4O
product | 2-chloro-6-[methyl(methylsulfonyl)amino]isonicotinic acid | ClC=1C=C(C(=O)O)C=C(N1)N(S(=O)(=O)C)C | C8H9ClN2O4S
